US03943124
17β-Cyano-5α-androstan-3-one
A solution of 17β-carbamoyl-5α-androstan-3-one (2.4 g.) and polyphosphate ester (12 g.) in chloroform (125 ml.) was refluxed for 24 hours. After removing the chloroform by evaporation aqueous 10% sodium carbonate (100 ml.) was added, the mixture cooled, and extracted with ether. The ethereal extracts were washed with water, dried (MgSO4), filtered and evaporated to afford a buff solid (2.45 g.). Purification by preparative t.l.c. (ethanol/chloroform 1:19) afforded a solid (1.48 g.) which was further purified by passing through a florisil column and crystallisation from dichloromethane/petrol to give title compound (915 mg.) m.p. 150°-152°; [α]D + 89° (c 1.12%).

reactant | 17β-carbamoyl-5α-androstan-3-one | 2.4 g | C(N)(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C20H31NO2
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 17β-Cyano-5α-androstan-3-one | 915 mg | C(#N)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C20H29NO
